US09376429B2
200 mg (1.0 eq) of the obtained 2-chloro-5-(methoxymethoxy)pyridine was dissolved in N,N-dimethylformamide/H2O=5:1 (16 mL), 193 mg (1.2 eq) of (3-fluorophenyl)boronic acid, 48 mg (3 mol %) of Pd(PPh3)4 and 586 mg (4.0 eq) of Na2CO3 were added. After reacting with microwave reactor at 120° C. for 30 minutes, N,N-dimethylformamide was removed by concentrating under reduced pressure. After extracting with ethyl acetate, the extract was treated with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was separated by column chromatography (developing solvent, hexane:ethyl acetate=9:1) to obtain 220 mg of 2-(3-fluorophenyl)-5-(methoxymethoxy)pyridine.

reactant | 2-chloro-5-(methoxymethoxy)pyridine | 200 mg, 1.0 eq | ClC1=NC=C(C=C1)OCOC | C7H8ClNO2
reactant | (3-fluorophenyl)boronic acid | 193 mg, 1.2 eq | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 586 mg, 4.0 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide H2O | CN(C=O)C.O
catalyst | Pd(PPh3)4 | 48 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-fluorophenyl)-5-(methoxymethoxy)pyridine | 220 mg | FC=1C=C(C=CC1)C1=NC=C(C=C1)OCOC | C13H12FNO2
